US08859774B2
A mixture of (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone (100 mg, 0.180 mmol) and pyrrolidine (37.5 μL, 0.450 mmol) in acetonitrile (2 mL) was stirred at 40° C. for 0.5 hour. The reaction mixture was cooled to room temperature and concentrated in vacuo to give a yellow oil. The crude product was purified by column chromatography on silica gel (gradient: 0-100% ethyl acetate in isohexane) to give a white solid. This was further purified by preparative HPLC (Gilson, Acidic (0.1% Formic acid), Agilent Prep C-18, 5 μm, 21.2×50 mm column, 30-95% acetonitrile in water) to afford (R)-(1-(4-fluorophenyl)-6-((6-(pyrrolidin-1-yl)pyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone as a white solid (51 mg). LCMS (Method F, ES-API): RT 2.43 min, m+H=590.9; 1H NMR (400 MHz, CDCl3): δ 8.45 (1H, dd, J=2.0, 0.5 Hz), 8.01 (1H, d, J=3.1 Hz), 7.63-7.59 (2H, m), 7.46-7.41 (2H, m), 7.29 (1H, s), 7.19-7.13 (2H, m), 6.51 (1H, d, J=2.1 Hz), 6.27 (1H, d, J=9.1 Hz), 5.47 (1H, dd, J=12.2, 2.1 Hz), 4.20 (1H, d, J=16.8 Hz), 3.87-3.83 (1H, m), 2.91-2.82 (2H, m), 2.71 (1H, d, J=12.3 Hz), 2.53-2.46 (2H, m), 2.06-2.04 (4H, m), 1.33-1.24 (2H, m), 1.17-1.07 (2H, m).

reactant | (R)-(6-((6-chloropyridin-3-yl)sulfonyl)-1-(4-fluorophenyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone | 0.180 mmol, 100 mg | ClC1=CC=C(C=N1)S(=O)(=O)N1C[C@]2(CC3=C(C=C2CC1)N(N=C3)C3=CC=C(C=C3)F)C(=O)C=3SC=CN3 | C25H19ClFN5O3S2
reactant | pyrrolidine | 0.450 mmol, 37.5 μL | N1CCCC1 | C4H9N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (R)-(1-(4-fluorophenyl)-6-((6-(pyrrolidin-1-yl)pyridin-3-yl)sulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)(thiazol-2-yl)methanone | 51 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2SC=CN2)S(=O)(=O)C=2C=NC(=CC2)N2CCCC2 | C29H27FN6O3S2
